US09388173B2
Step 2: 5-(3-(3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropoxy)phenyl)-1H-benzo[d]imidazol-2(3H)-one
A mixture of 5-bromo-1H-benzo[d]imidazol-2(3H)-one (200 mg, 0.489 mmol), 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (100 mg), Pd(dppf)Cl2 (36 mg, 0.049 mmol), K2CO3 (202 mg, 1.47 mmol) in H2O-dioxane (1 mL/3 mL) was stirred and heated in am microwave reactor to 100° C. for 15 min. Once cooled, the solvent was removed by concentration and the crude product purified by HPLC separation to give the title compound (74 mg, 36.5%). 1HNMR (CH3OD, 400 MHz) δ: 7.49-7.10 (m, 10H), 6.98-6.92 (m, 1H), 4.76-4.42 (m, 3H), 4.20-4.09 (m, 2H), 3.98-3.89 (m, 1H), 3.62-3.48 (m, 3H), 3.36-3.14 (m, 2H). LCMS (m/z): 416.2 [M+H]+

reactant | 5-bromo-1H-benzo[d]imidazol-2(3H)-one | 0.489 mmol, 200 mg | BrC1=CC2=C(NC(N2)=O)C=C1 | C7H5BrN2O
reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 100 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
reactant | K2CO3 | 1.47 mmol, 202 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O dioxane | 1 mL | O.O1CCOCC1
catalyst | Pd(dppf)Cl2 | 0.049 mmol, 36 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(3-(3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropoxy)phenyl)-1H-benzo[d]imidazol-2(3H)-one | 74 mg, 36.5% | C1N(CCC2=CC=CC=C12)CC(COC=1C=C(C=CC1)C1=CC2=C(NC(N2)=O)C=C1)O | C25H25N3O3
